US04117128
2-[4-(2-hydroxy-3-isopropylaminopropoxy)phenylsulfonyl]-3-phenylbenzofuran
Treatment of 2-[(4-(2,3-epoxypropoxy)phenylsulfonyl]-3-phenylbenzofuran with isopropylamine as described in Example 3 gives the title compound.

reactant | (4-(2,3-epoxypropoxy)phenylsulfonyl]-3-phenylbenzofuran | O1C(COC2=CC=C(C=C2)S(=O)(=O)C=2OC3=C(C2C2=CC=CC=C2)C=CC=C3)C1 | C23H18O5S
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 2-[4-(2-hydroxy-3-isopropylaminopropoxy)phenylsulfonyl]-3-phenylbenzofuran | OC(COC1=CC=C(C=C1)S(=O)(=O)C=1OC2=C(C1C1=CC=CC=C1)C=CC=C2)CNC(C)C | C26H27NO5S
